US06740777B2
A mixture of 2,2-dimethyl-5-trifluoromethanesulfonyloxy-4H-1,3-benzodioxin4-one (9.90 g, 30.3 mmol), tributyl(vinyl)tin (10.10 g, 31.9 mmol), lithium chloride (8.70 g, 205 mmol), and triethylamine (5.0 mL, 36.0 mmol) in 1,4-dioxane (300 mL) was deoxygenated by bubbling nitrogen through the mixture for 1 h. To the mixture was added tetrakis(triphenylphosphine)palladium (3.40 g, 2.90 mmol) and the mixture was heated at 100° C. for 3 h. The mixture was allowed to cool to rt and was filtered. The filtrate was concentrated and purified by flash chromatography (1:12, EtOAc/hexanes) to provide 5-ethenyl-2,2-dimethyl-4H-1,3-benzodioxin-4-one (5.00 g, 81%) as a yellow oil: 1H NMR: (CDCl3) δ1.72 (s, 6H), 5.43 (dd, J=11.0, 1.3 Hz, 1), 5.72 (dd, J=17.5, 1.3 Hz, 1 Hz, 1H), 6.89 (d, J=8.0 Hz, 1H), 7.27 (d, J=8.0 Hz, 1H), 7.47 (t, J=8.0 Hz, 1H), 7.73 (dd, J=17.5, 11.0 Hz, 1H).

reactant | 2,2-dimethyl-5-trifluoromethanesulfonyloxy-4H-1,3-benzodioxin4-one | 30.3 mmol, 9.90 g | CC1(OC(C2=C(O1)C=CC=C2OS(=O)(=O)C(F)(F)F)=O)C | C11H9F3O6S
reactant | tributyl(vinyl)tin | 31.9 mmol, 10.10 g | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | lithium chloride | 205 mmol, 8.70 g | [Cl-].[Li+]
reactant | triethylamine | 36.0 mmol, 5.0 mL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 300 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 2.90 mmol, 3.40 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-ethenyl-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 5.00 g, 81% | C(=C)C1=CC=CC=2OC(OC(C21)=O)(C)C | C12H12O3
